### PR TITLE
[Merged by Bors] - feat(FieldTheory/RatFunc): Simple lemmas about num/denom and inv

### PR DESCRIPTION
**Pull request by justus-springer**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 1]
```diff
@@ -1066,6 +1066,28 @@ theorem denom_add_dvd (x y : RatFunc K) : denom (x + y) ∣ denom x * denom y :=
   · exact algebraMap_ne_zero (denom_ne_zero x)
   · exact algebraMap_ne_zero (denom_ne_zero y)
 
+theorem num_inv_dvd {x : RatFunc K} (hx : x ≠ 0) : num x⁻¹ ∣ denom x := by
+  rw [num_dvd x.denom_ne_zero]
+  refine ⟨x.num, num_ne_zero hx, ?_⟩
+  nth_rw 1 [←x.num_div_denom]
```
Comment (Ruben-VandeVelde) [inline Mathlib/FieldTheory/RatFunc/Basic.lean]:
```suggestion
  nth_rw 1 [← x.num_div_denom]
```

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 2]
```diff
@@ -1066,6 +1066,28 @@ theorem denom_add_dvd (x y : RatFunc K) : denom (x + y) ∣ denom x * denom y :=
...
+  rw [inv_div]
+
+theorem denom_inv_dvd {x : RatFunc K} (hx : x ≠ 0) : denom x⁻¹ ∣ num x := by
+  rw [denom_dvd (num_ne_zero hx)]
+  refine ⟨x.denom, ?_⟩
+  nth_rw 1 [←x.num_div_denom]
```
Comment (Ruben-VandeVelde) [inline Mathlib/FieldTheory/RatFunc/Basic.lean]:
```suggestion
  nth_rw 1 [← x.num_div_denom]
```

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 3]
```diff
@@ -1066,6 +1066,28 @@ theorem denom_add_dvd (x y : RatFunc K) : denom (x + y) ∣ denom x * denom y :=
...
+  rw [inv_div]
+
+theorem num_inv_associated {x : RatFunc K} (hx : x ≠ 0) : Associated (num x⁻¹) (denom x) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/FieldTheory/RatFunc/Basic.lean]: As far as I can tell, `Associated` is not considered an infix operator for the purpose of naming:
```suggestion
theorem associated_num_inv {x : RatFunc K} (hx : x ≠ 0) : Associated (num x⁻¹) (denom x) := by
```

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 4]
```diff
@@ -1066,6 +1066,28 @@ theorem denom_add_dvd (x y : RatFunc K) : denom (x + y) ∣ denom x * denom y :=
...
+  apply associated_of_dvd_dvd (num_inv_dvd hx)
+  convert denom_inv_dvd (inv_ne_zero hx)
+  rw [inv_inv]
+
+theorem denom_inv_associated {x : RatFunc K} (hx : x ≠ 0) : Associated (denom x⁻¹) (num x) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/FieldTheory/RatFunc/Basic.lean]: Same here:
```suggestion
theorem associated_denom_inv {x : RatFunc K} (hx : x ≠ 0) : Associated (denom x⁻¹) (num x) := by
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+
